US07659268B2
5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidin-2-one (43 mg, 0.15 mmol), N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (37 mg, 0.10 mmol) and Pd(PPh3)4 (6 mg, 0.005 mmol) were placed a reaction tube. DME (1 mL) and saturated aqueous Na2CO3 (100 μL) were added and the reaction vial was stirred under N2 atmosphere at 80° C. overnight. The mixture was filtered and concentrated. The residue was dissolved in DMSO and purified by reverse-phase HPLC to yield 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(5-methyl-6-(4-(5-oxopyrrolidin-2-yl)phenyl)pyridin-2-yl)cyclopropanecarboxamide ESI-MS m/z calc. 491.2, found 492.3 (M+1)+. Retention time 1.75 minutes. 1H NMR (400 MHz, DMSO-d6) δ 8.78 (s, 1H), 8.12 (s, 1H), 7.88 (d, J=8.4 Hz, 1H), 7.72 (d, J=8.5 Hz, 1H), 7.57 (d, J=1.6 Hz, 1H), 7.44-7.34 (m, 6H), 4.71 (t, J=7.1 Hz, 1H), 2.50-2.44 (m, 1H), 2.27-2.23 (m, 5H), 1.81-1.72 (m, 1H), 1.53-1.50 (m, 2H), 1.19-1.16 (m, 2H).

reactant | 5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidin-2-one | 0.15 mmol, 43 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1CCC(N1)=O)C | C16H22BNO3
reactant | N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.10 mmol, 37 mg | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C17H13ClF2N2O3
reactant | Na2CO3 | 100 μL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.005 mmol, 6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 1 mL | COCCOC | C4H10O2
product | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(5-methyl-6-(4-(5-oxopyrrolidin-2-yl)phenyl)pyridin-2-yl)cyclopropanecarboxamide | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC(=C(C=C2)C)C2=CC=C(C=C2)C2NC(CC2)=O)F | C27H23F2N3O4
